US05864039
2-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)ethylamine (1 g) was dissolved in methylene chloride (10 ml) and a solution of methyl isocyanate (0.24 ml) in methylene chloride was dropwise added under ice-cooling. The mixture was stirred at room temperature for 1 hr, and the reaction mixture was concentrated under reduced pressure to give 1-(2-(3-methylureido)ethyl)-3-tert-butoxycarbonylaminomethylpyrrolidine.

reactant | 2-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)ethylamine | 1 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCN | C12H25N3O2
reactant | methyl isocyanate | 0.24 ml | CN=C=O | C2H3NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-(3-methylureido)ethyl)-3-tert-butoxycarbonylaminomethylpyrrolidine | CNC(NCCN1CC(CC1)CNC(=O)OC(C)(C)C)=O | C14H28N4O3
